US08217052B2
(S)-3-((S)-2-Methyl-piperidin-1-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound was prepared in a manner substantially the same as intermediate (2R,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester by condensing 3-(3R)-(toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (5 g) with (S)-2-Methyl-piperidine to get 1.50 g (38% yield) of the product as a beige oil.

reactant | (2R,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N1[C@@H](CCC1)C | C14H26N2O2
reactant | 3-(3R)-(toluene-4-sulfonyloxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 5 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C16H23NO5S
reactant | (S)-2-Methyl-piperidine | C[C@@H]1NCCCC1 | C6H13N
product | (S)-3-((S)-2-Methyl-piperidin-1-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)N1[C@H](CCCC1)C | C15H28N2O2
